US07297816B2
(±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-N-[2-(4-chloro-phenyl)-1-methyl-ethyl]-benzamide
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromobenzoic acid was coupled with (±)-2-(4-chlorophenyl)-1-methylethylamine as in EXAMPLE 1, Part C. HPLC: RT=10.50 min. MS (ESI−): mass calcd. for C22H18BrClN4O3S2, 563.97; m/z found, 563/565 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.61 (s, 1H), 8.37 (dd, J=7.0, 1.2, 1H), 8.22 (dd, J=8.8, 1.0, 1H), 7.88 (d, J=1.8, 1H), 7.72 (dd, J=8.8, 7.0, 1H), 7.32-7.25 (m, 2H), 7.13-7.05 (m, 2H), 7.07 (dd, J=8.4, 1.8, 1H), 7.01 (d, J=8.4, 1H), 5.74 (br d, J=7.8, 1H), 4.40-4.28 (m, 1H), 2.88 (dd, J=13.6, 5.6, 1H), 2.75 (dd, J=13.6, 7.1, 1H), 1.17 (d, J=6.7, 3H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromobenzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Br | C13H8BrN3O4S2
reactant | (±)-2-(4-chlorophenyl)-1-methylethylamine | ClC1=CC=C(C=C1)CC(C)N | C9H12ClN
product | (±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-bromo-N-[2-(4-chloro-phenyl)-1-methyl-ethyl]-benzamide | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)NC(CC1=CC=C(C=C1)Cl)C)C=CC(=C2)Br | C22H18BrClN4O3S2
